US08912210B2
Step A: Methyl 2-[(tert-butoxycarbonyl)amino]-4-(4-chlorophenyl)-5-oxohexanoate
To a solution of methyl N-(tert-butoxycarbonyl)-3-iodo-L-alaninate (215 g, 652 mmol) and 4-chlorophenylacetone (100 g, 593 mmol) in N,N-dimethylformamide (1.5 L) was added cesium carbonate (483 g, 1.48 mol) at room temperature. After 4 h, the mixture was then added to a stirring solution of pH 7 buffer and EtOAc. The aqueous layer was extracted with EtOAc and the combined organics were washed with pH 7 buffer, dried over sodium sulfate, filtered and concentrated. The crude product was purified by silica gel chromatography (10% ethyl acetate/heptane→30% ethyl acetate/heptane) to provide the title compound as a mixture of diastereomers. MS: m/z=392.1 (M+Na).

reactant | methyl N-(tert-butoxycarbonyl)-3-iodo-L-alaninate | 652 mmol, 215 g | C(C)(C)(C)OC(=O)N[C@@H](CI)C(=O)OC | C9H16INO4
reactant | 4-chlorophenylacetone | 593 mmol, 100 g | ClC1=CC=C(C=C1)CC(C)=O | C9H9ClO
reactant | cesium carbonate | 1.48 mol, 483 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | N,N-dimethylformamide | 1.5 L | CN(C=O)C | C3H7NO
product | Methyl 2-[(tert-butoxycarbonyl)amino]-4-(4-chlorophenyl)-5-oxohexanoate | C(C)(C)(C)OC(=O)NC(C(=O)OC)CC(C(C)=O)C1=CC=C(C=C1)Cl | C18H24ClNO5
